US04616026
2-Chloro-2,2,2',4'-tetrafluoroacetophenone
Bromo-2,4-difluorobenzene (10 g) was added to magnesium turnings (1.5 g) in dry diethylether (100 ml). The clear solution of the Grignard reagent was then added dropwise to a solution of chlorodifluoroacetic anhydride (10 g) in dry diethylether (50 ml) while stirring at -72° C. under nitrogen. After 15 minutes the reaction mixture was allowed to warm to -10° C. over one hour and then poured onto a mixture of ice (200 g) and 2N hydrochloric acid (50 ml). The mixture was extracted with diethyl ether (3×100 ml), the ether extracts dried over MgSO4 and evaporated to a yellow oil which was distilled to give the title product as a colorless oil (3.6 g). B.p. 50°-80° C., 14 mm Hg.

reactant | Bromo-2,4-difluorobenzene | 10 g | BrC1=C(C=C(C=C1)F)F | C6H3BrF2
reactant | magnesium | 1.5 g | [Mg] | Mg
reactant | chlorodifluoroacetic anhydride | 10 g | ClC(C(=O)OC(C(Cl)(F)F)=O)(F)F | C4Cl2F4O3
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | 2-Chloro-2,2,2',4'-tetrafluoroacetophenone | 3.6 g | ClC(C(=O)C1=C(C=C(C=C1)F)F)(F)F | C8H3ClF4O
